Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
ibuprofen
 
Attending: ___.
 
Chief Complaint:
Swallowed razor
 
Major Surgical or Invasive Procedure:
None 
 
History of Present Illness:
Mr. ___ is a ___ year old incarcerated man with HTN, and 
migraines who presents with suicide attempt and foreign body 
ingestion, reported to be a razor blade. He reports he has been 
in jail since ___. He states he is suicidal and wanted to 
kill himself.  He has a history of depression and previous 
suicide attempts using heroin. He explains he was cutting his
left wrist, face, and neck with a razor blade and then swallowed 
it. 

 
Past Medical History:
PMH: HTN, depression, migraines

PSH: None 
 
Social History:
___
Family History:
states his mother's brother committed suicide by self-inflicted 
gunshot wound

 
Physical Exam:
Admission Physical Exam:

VITAL SIGNS: 98.8, 71, 130/82, 16, 99%RA
 GENERAL: AAOx3 NAD
 HEENT: NCAT, PERRLA, No scleral icterus, mucosa moist, no LAD,
multiple superficial, non-bleeding lacerations in right neck
 CARDIOVASCULAR: R/R/R, S1/S2, NO M/R/G
 PULMONARY: CTA ___, No crackles or rhonchi
 GASTROINTESTINAL: soft, non-tender, non-distended. No guarding,
rebound, or peritoneal signs. +BSx4
 EXT/MS/SKIN: No C/C/E; Feet warm. Good perfusion. Multiple
superficial lacerations on left wrist, non-bleeding
 NEUROLOGICAL: Reflexes, strength, and sensation grossly intact

Discharge Physical Exam:
VS: T: 98.0 PO BP: 136/83 R Lying HR: 86 RR: 18 O2: 94% Ra 
GEN: A+Ox3, NAD
HEENT: right neck with multiple superficial lacerations which 
are scabbing, no drainage or s/s infection. MMM
CV: RRR
PULM: CTA b/l
ABD: soft, non-distended, non-tender to palpation 
EXT: LUE with multiple superficial lacerations, scabbing, no s/s 
infection.  wwp and no edema b/l UE and b/l ___.  

 
Pertinent Results:
IMAGING:

KUB:
Curvilinear density projecting over the right mid abdomen likely
represents ingested razor blade and does appears to be in
small-bowel.

Right hand X-ray:
Normal right hand radiographs.

LABS:

___ 12:45AM   GLUCOSE-80 UREA N-13 CREAT-0.8 SODIUM-141 
POTASSIUM-4.2 CHLORIDE-100 TOTAL CO2-25 ANION GAP-16
___ 12:45AM   ASA-NEG ETHANOL-NEG ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 12:45AM   WBC-10.2* RBC-5.71 HGB-16.2 HCT-46.1 MCV-81* 
MCH-28.4 MCHC-35.1 RDW-13.2 RDWSD-38.4
___ 12:45AM   NEUTS-45.3 ___ MONOS-9.4 EOS-3.2 
BASOS-0.4 IM ___ AbsNeut-4.60 AbsLymp-4.21* AbsMono-0.95* 
AbsEos-0.33 AbsBaso-0.04
___ 12:45AM   PLT COUNT-222
 
Brief Hospital Course:
Mr. ___ is a ___ year old incarcerated male who was admitted to 
___ s/p foreign body ingestion, reported to be a razor blade, 
as a suicide attempt. He has a history of depression and 
previous suicide attempts using heroin. Psychiatry was consulted 
and he was placed under 1:1 observation.  It was recommended he 
follow-up with forensic psychiatry after discharge.  He was 
admitted to the Acute Care Surgery service for serial abdominal 
exams and to evaluate for the passage of the foreign body with 
KUBs.  The patient was made NPO and started on IVF. On HD1, the 
razor was seen in the small bowel. On HD2, the razor was seen in 
the ascending colon and there was no evidence of gross free 
intraperitoneal air. Abdomen remained benign. The patient was 
started on a clears to regular diet which he tolerated.  He 
reported hematuria and a urinalysis was sent which was negative, 
there was no apparent traumatic injury to the penis or urethra.  


The patient was alert and oriented throughout hospitalization; 
pain was initially managed with IV hydromorphone prn and 
acetaminophen and was converted to oral acetaminophen once 
tolerating a diet. The patient remained stable from a 
cardiovascular and pulmonary standpoint; vital signs were 
routinely monitored. The patient's intake and output were 
closely monitored. The patient's fever curves were closely 
watched for signs of infection, of which there were none. The 
patient's blood counts were closely watched for signs of 
bleeding, of which there were none. The patient received 
subcutaneous heparin and ___ dyne boots were used during this 
stay and was encouraged to get up and ambulate as early as 
possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan. The patient was cleared for 
discharge back to ___ as the facility would be 
able to provide medical care to further monitor the patient.  
 

 
Medications on Admission:
Lisinopril  
 Excedrin 

 
Discharge Medications:
1.  Acetaminophen 325-650 mg PO Q6H:PRN Pain - Mild 
  Reason for PRN duplicate override: Alternating agents for 
similar severity 

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Swallowed razor 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to ___ 
(___) after swallowing a razor.  You were initially restricted 
from eating and then had abdominal x-rays which show the razor 
to be passing through your gastrointestinal tract appropriately. 
 You were then resumed on a regular diet.  You are now medically 
cleared to be discharged back to your facility where you will be 
monitored until the razor is expelled.  Please notify medical 
staff if you notice that the razor has been evacuated. 

Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:

*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___